US06333336B1
c) 2,5-Dihydro-2,7-bis(4-methoxyphenyl)-6-methylpyrazolo[4,3-c]pyridin-3-one
A mixture of ethyl 4-chloro-3-(4-methoxyphenyl)-2-methyl-5-pyridinecarboxylate (0.1842 g, 0.602 mmol) and 4-methoxyphenylhydrazine hydrochloride (0.1000 g, 0.724 mmol) in anhydrous 1-butanol (7 ml) was degassed by evaporating the flask under vacuum and refilling with nitrogen several times. The mixture was then stirred at reflux under nitrogen for 32 h, during which time more 4-methoxyphenylhydrazine hydrochloride (0.1001 g, 0.724 mmol) was added. The solvent was removed in vacuo and the residue was purified by flash chromatography (silica gel, 3-7% MeOH/CH2Cl2) to give 45.5 mg (21%) of the title compound as a yellow solid; mp 274-282° C. (CH2Cl2-MeOH-EtOAc); 1H NMR (360 MHz, DMSO-d6) δ2.40 (3H, s), 3.88 (3H, s), 3.96 (3H, s), 7.08 (2H, d, J 9.2 Hz), 7.19 (2H, d, J 8.7 Hz), 7.59 (2H, d, J 8.7 Hz), 8.11 (2H, d, J 9.1 Hz), 8.61 (1H, s), 12.43 (1H, br s); MS (ES+) m/z 362 MH]+. Anal. found: C, 69.95; H, 5.02; N, 11.60. C21H19N3O3 requires: C, 69.79; H, 5.30; N, 11.63%.

reactant | ethyl 4-chloro-3-(4-methoxyphenyl)-2-methyl-5-pyridinecarboxylate | 0.602 mmol, 0.1842 g | ClC1=C(C(=NC=C1C(=O)OCC)C)C1=CC=C(C=C1)OC | C16H16ClNO3
reactant | 4-methoxyphenylhydrazine hydrochloride | 0.724 mmol, 0.1000 g | Cl.COC1=CC=C(C=C1)NN
reactant | 4-methoxyphenylhydrazine hydrochloride | 0.724 mmol, 0.1001 g | Cl.COC1=CC=C(C=C1)NN
solvent | 1-butanol | 7 ml | C(CCC)O | C4H10O
product | 2,5-Dihydro-2,7-bis(4-methoxyphenyl)-6-methylpyrazolo[4,3-c]pyridin-3-one | 45.5 mg, 21% | COC1=CC=C(C=C1)N1N=C2C(=CNC(=C2C2=CC=C(C=C2)OC)C)C1=O | C21H19N3O3
